US06503907B2
In analogy to example 4.6, 5-benzyloxy-indole and and 1-bromo-4-fluoro-benzene were converted to yield 5-Benzyloxy-1-(4-bromo-phenyl)-1H-indole as light brown solid, mp 118° C., MS: 377 (M, 1Br).

reactant | 5-benzyloxy-indole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 1-bromo-4-fluoro-benzene | BrC1=CC=C(C=C1)F | C6H4BrF
product | 5-Benzyloxy-1-(4-bromo-phenyl)-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)Br | C21H16BrNO
